US07399774B2
Benzyl-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-amine
Dissolve 2-Methoxy-5,7,8,9-tetrahydro-benzocyclohepten-6-one (prepared according to JCS Perkin Trans. 1, 1992, 1475-1481, 83 mg, 0.44 mmol) in 1 mL of 19:1 methanol/acetic acid as solvent, and treat the solution with benzylamine (60 uL, 65 mg, 0.60 mmol) and NaCNBH3 (80 mg, 1.27 mmol). Agitate the reaction mixture overnight, then dilute with 25 mL dichloromethane. Wash the organic layer with 25 mL 10% aqueous potassium carbonate solution, the 25 mL brine, dry over MgSO4 and evaporate to yield 103 mg product, used in subsequent chemistry without further purification; 80% crude yield.

reactant | 2-Methoxy-5,7,8,9-tetrahydro-benzocyclohepten-6-one | 0.44 mmol, 83 mg | COC=1C=CC2=C(CCCC(C2)=O)C1 | C12H14O2
reactant | benzylamine | 0.60 mmol, 60 uL, 65 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | NaCNBH3 | 1.27 mmol, 80 mg | [BH3-]C#N.[Na+]
solvent | methanol acetic acid | 1 mL | CO.C(C)(=O)O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Benzyl-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-amine | 103 mg | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=C(C=C2)OC | C19H23NO
